US08182718B2
Hgc=Lithium Diphenylphosphinate
To a flask were added 1.0 g diphenylphosphinic acid, 182 mg lithium hydroxide monohydrate, 10 ml of water and 30 ml 2-propanol. The mixture was heated to 70 C under nitrogen until a clear solution was obtained. The mixture was cooled and the solvent was removed under reduced pressure and the product was slurried in a small amount of 2-propanol, filtered and washed with 2-propanol. After drying, a white solid was obtained.

reactant | diphenylphosphinic acid | 1.0 g | C1(=CC=CC=C1)P(O)(=O)C1=CC=CC=C1 | C12H11O2P
reactant | lithium hydroxide monohydrate | 182 mg | O.[OH-].[Li+]
reactant | water | 10 ml | O | H2O
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
product | Lithium Diphenylphosphinate | C1(=CC=CC=C1)P([O-])(=O)C1=CC=CC=C1.[Li+] | InChI=1S/C12H11O2P.Li/c13-15(14,11-7-3-1-4-8-11)12-9-5-2-6-10-12;/h1-10H,(H,13,14);/q;+1/p-1
